US07868022B2
Step A: (4,5-Difluoro-2-nitro-phenyl)-methanol
To a solution of 3,4-difluoro-6-nitrobenzoic acid (3.05 g, 15 mmol) in THF (20 mL) was added BH3 THF (30 mL). The resulting mixture was stirred at room temperature for 2 h and then at 50° C. for 5 h. The resulting mixture was then cooled to room temperature, and methanol (20 mL) was added slowly. The resulting mixture was concentrated, and the residue was treated with methanol twice more, to yield a yellow solid.

reactant | 3,4-difluoro-6-nitrobenzoic acid | 15 mmol, 3.05 g | FC=1C=C(C(=O)O)C(=CC1F)[N+](=O)[O-] | C7H3F2NO4
reactant | methanol | 20 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4,5-Difluoro-2-nitro-phenyl)-methanol | FC1=CC(=C(C=C1F)CO)[N+](=O)[O-] | C7H5F2NO3
